US06143764
N-(4-n-Butylphenyl)-N'-{3-[(6,7-dimethoxy-4-quinolyl)oxy]phenyl}urea [91]
6,7-Dimethoxy-4-(3-aminophenoxy)quinoline (51 mg), which was obtained, analogously to Example 49, by reducing 6,7-dimethoxy-4-(3-nitrophenoxy)quinoline obtained in the same manner as described in Example 48, except that 3-nitrophenol was used in place of 4-nitrophenol, was dissolved in toluene (3 ml) with heat, 4-n-butylphenyl isocyanate (0.2 ml) was added, and the admixture was refluxed with heat for 50 minutes. The resulting residue was purified by chromatography on silica gel eluting with chloroform/acetone (10/1) to obtain 26 mg of the title compound (yield: 32%).

reactant | 6,7-dimethoxy-4-(3-nitrophenoxy)quinoline | COC=1C=C2C(=CC=NC2=CC1OC)OC1=CC(=CC=C1)[N+](=O)[O-] | C17H14N2O5
reactant | 3-nitrophenol | [N+](=O)([O-])C=1C=C(C=CC1)O | C6H5NO3
reactant | 4-n-butylphenyl isocyanate | 0.2 ml | C(CCC)C1=CC=C(C=C1)N=C=O | C11H13NO
solvent | toluene | 3 ml | C1(=CC=CC=C1)C | C7H8
product | N-(4-n-Butylphenyl)-N'-{3-[(6,7-dimethoxy-4-quinolyl)oxy]phenyl}urea | 26 mg, yield: 32% | C(CCC)C1=CC=C(C=C1)NC(=O)NC1=CC(=CC=C1)OC1=CC=NC2=CC(=C(C=C12)OC)OC | C28H29N3O4
